US09056858B2
Synthesis of 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(5-methanesulfonyl-furan-2-yl)-cyclopropyl]-amide (10)
To a stirred mixture of 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid (0.310 g, 1.21 mmol), N,N-diisopropylethylamine (0.630 mL, 3.62 mmol) and 1-(5-methanesulfonyl-furan-2-yl)-cyclopropylamine-hydrochloride salt (364 mg, 1.53 mmol) in DMF (30 mL) is added (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (PyBOP) (0.650 g, 1.25 mmol). After 18 hours, the mixture is diluted with saturated aqueous ammonium chloride (100 mL) and extracted with ethyl acetate (4×30 mL). The combined organic layers are washed with brine (50 mL), dried over sodium sulfate, filtered and concentrated. The residue is purified by silica gel chromatography eluting with a gradient of 0-100% ethyl acetate in hexanes to afford the title compound as a solid.

reactant | 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid | 1.21 mmol, 0.310 g | FC1=CC=C(C=C1)N1N=CC2=C1C=NC=C2C(=O)O | C13H8FN3O2
reactant | N,N-diisopropylethylamine | 3.62 mmol, 0.630 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(5-methanesulfonyl-furan-2-yl)-cyclopropylamine-hydrochloride salt | 1.53 mmol, 364 mg | Cl.CS(=O)(=O)C1=CC=C(O1)C1(CC1)N
reactant | (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | 1.25 mmol, 0.650 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | ammonium chloride | 100 mL | [Cl-].[NH4+]
product | 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(5-methanesulfonyl-furan-2-yl)-cyclopropyl]-amide | CS(=O)(=O)C1=CC=C(O1)C1(CC1)NC(=O)C=1C2=C(C=NC1)N(N=C2)C2=CC=C(C=C2)F | C21H17FN4O4S
